US08877782B2
a) 6-[3-(4-Chloro-phenyl)-isoxazol-4-ylmethoxy]-nicotinic acid
As described for example 331a, 6-[3-(4-chloro-phenyl)-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (4.0 g, 11.6 mmol) was converted, instead of 6-[3-(4-fluoro-phenyl)-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester, to the title compound (3.8 g, 100%) which was obtained as a light yellow solid. MS: m/e=331.1 [M−H]−.

reactant | 6-[3-(4-chloro-phenyl)-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 11.6 mmol, 4.0 g | COC(C1=CN=C(C=C1)OCC=1C(=NOC1)C1=CC=C(C=C1)Cl)=O | C17H13ClN2O4
reactant | 6-[3-(4-fluoro-phenyl)-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | COC(C1=CN=C(C=C1)OCC=1C(=NOC1)C1=CC=C(C=C1)F)=O | C17H13FN2O4
product | 6-[3-(4-Chloro-phenyl)-isoxazol-4-ylmethoxy]-nicotinic acid | 3.8 g, 100% | ClC1=CC=C(C=C1)C1=NOC=C1COC1=NC=C(C(=O)O)C=C1 | C16H11ClN2O4
